US07786116B2
Step E: 4-Cyano-5-(6-ethoxy-2′-fluoro-4-nitro-biphenyl-3-yl)-3-(tetrahydro-pyran-4-yl)-pent-4-enoic acid tert-butyl ester
To a solution of tert-butyl acetate (217 μL, 1.6 mmol) in THF (0.92 mL) at −78° C., LHMDS (1.0 M in THF, 1.4 mL) was added slowly. After 30 min of stirring at −78° C., [1-cyano-2-(tetrahydro-pyran-4-yl)-vinyl]-phosphonic acid diethyl ester (302 mg, 1.1 mmol) dissolved in THF (0.92 mL) was added, followed by CuI (6.3 mg, 0.03 mmol). The resulting solution was warmed to room temperature, stirred for 2 h, and then 6-ethoxy-2′-fluoro-4-nitro-biphenyl-3-carbaldehyde (266.0 mg, 0.9195 mmol), prepared as in Step C above, was added. The resulting solution was stirred at room temperature for another 20 h. Ethyl acetate was then added, and the resulting solution was washed with hydrochloric acid solution (1.0 M) two times and with brine one time, and then dried over magnesium sulfate. The resulting solution was filtered and concentrated. The residue was purified on a silica gel column eluted with a solvent mixture of ethyl acetate and heptanes from 0:100 to 25:75 to yield a residue.

reactant | tert-butyl acetate | 1.6 mmol, 217 μL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | LHMDS | 1.0 M, 1.4 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | [1-cyano-2-(tetrahydro-pyran-4-yl)-vinyl]-phosphonic acid diethyl ester | 1.1 mmol, 302 mg | C(C)OP(OCC)(=O)C(=CC1CCOCC1)C#N | C12H20NO4P
reactant | 6-ethoxy-2′-fluoro-4-nitro-biphenyl-3-carbaldehyde | 0.9195 mmol, 266.0 mg | C(C)OC1=CC(=C(C=C1C1=C(C=CC=C1)F)C=O)[N+](=O)[O-] | C15H12FNO4
solvent | THF | 0.92 mL | C1CCOC1 | C4H8O
solvent | THF | 0.92 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.03 mmol, 6.3 mg | [Cu]I
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyano-5-(6-ethoxy-2′-fluoro-4-nitro-biphenyl-3-yl)-3-(tetrahydro-pyran-4-yl)-pent-4-enoic acid tert-butyl ester | C(C)(C)(C)OC(CC(C(=CC=1C=C(C(=CC1[N+](=O)[O-])OCC)C1=C(C=CC=C1)F)C#N)C1CCOCC1)=O | C29H33FN2O6
